US07541372B2
2-(4-Fluoro-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (5.00 g, 23.0 mmol) was converted using 4-fluorobenzoic acid instead of o-toluic acid to the title compound (recrystallisation from tert-butylmethylether, 2.98 g, 40%) which was obtained as an off-white solid. MS: m/e=322.2 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 23.0 mmol, 5.00 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 4-fluorobenzoic acid | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
product | 2-(4-Fluoro-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 2.98 g, 40% | FC1=CC=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C18H12FN3O2
